US06355648B1
5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime).
5′-Bromo-2′-(methylthio)spiro[cyclohexane-1,3′-[3H]indole] (9.0 g, 28.98 mmol) and O-benzylhydroxylamine hydrochloride (13.8 g, 86.9 mmol) were combined in methanol (150 mL) and heated to 45° C. for 6 hours. Methanol was evaporated in vacuo. Ethyl acetate was added to the residue and this mixture was washed with ammonium chloride solution. Ethyl acetate was dried over magnesium sulfate, ethyl acetate collected evaporated in vacuo and the residue was flash chromatographed on alumina 90 (9:1 Hexane/EtOAc) to the desired product (6.5 g, 60%). 1H NMR (DMSO-d6, 300 MHz) δ 1.38-1.70 (m, 8H), 1.92-2.06 (m, 2H), 5.06 (s, 2H), 6.71 (d, 1H, J=8.26 Hz), 7.22-7.43 (m, 7H), 9.62 (s, 1H).

reactant | 5′-Bromo-2′-(methylthio)spiro[cyclohexane-1,3′-[3H]indole] | 28.98 mmol, 9.0 g | BrC=1C=C2C3(C(=NC2=CC1)SC)CCCCC3 | C14H16BrNS
reactant | O-benzylhydroxylamine hydrochloride | 86.9 mmol, 13.8 g | Cl.C(C1=CC=CC=C1)ON
solvent | methanol | 150 mL | CO | CH4O
product | 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)Br | C20H21BrN2O
